US07060844B2
3-[6-(2,4-Dimethoxy-benzylamino)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one
To a stirred solution of 3-(6-amino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one (1 g, 3.79 mmol) and 2,4-dimethoxybenzaldehyde (0.75 g, 4.54 mmol) in 1% AcOH/DMF (30 ml), was added sodium triacetoxyborohydride (3.2 g, 15.1 mmol). The mixture was stirred at room temperature for 16 hours, diluted with CHCl3 (200 ml), washed with saturated aqueous NaHCO3 solution (200 ml) and water (2×200 ml), dried over anhydrous Na2SO4. Removal of the solvent provided the crude product. Recrystallization of the crude product from MeOH resulted in 3-[6-(2,4-dimethoxy-benzylamino)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one as a bright yellow solid (1.3 g, 83%).

reactant | 3-(6-amino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 3.79 mmol, 1 g | NC1=CC=C2COC(C2=C1)=C1C(NC2=CC=CC=C12)=O | C16H12N2O2
reactant | 2,4-dimethoxybenzaldehyde | 4.54 mmol, 0.75 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | sodium triacetoxyborohydride | 15.1 mmol, 3.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | AcOH DMF | 30 ml | CC(=O)O.CN(C)C=O
solvent | CHCl3 | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[6-(2,4-Dimethoxy-benzylamino)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one | COC1=C(CNC2=CC=C3COC(C3=C2)=C2C(NC3=CC=CC=C23)=O)C=CC(=C1)OC | C25H22N2O4
